### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Reproducing): submodule of RKHS is RKHS

### PR DESCRIPTION
**Pull request by TJHeeringa**
This PR adds that the closed subspace of an RKHS is again an RKHS.

This is the formalization of Theorem 2.5 of Paulsen, Vern I. and Raghupathi, Mrinal, *An introduction to the theory of reproducing kernel Hilbert spaces*.

---

#38584 has been split up into parts. This is one of these. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 1]
```diff
@@ -25,6 +25,11 @@ positive semidefinite matrices.
 - `RKHS.OfKernel`: RKHS constructed from a positive semidefinite matrix.
 - `RKHS.kernel_ofKernel`: The kernel of the constructed RKHS is equal to the matrix, this is
     essentially Moore's theorem.
+- `RKHS.subRKHS`: the closed subspace of an RKHS is again an RKHS.
+- `RKHS.kerFun_subRKHS`: the kernel functions of the subRKHS are an orthogonal projection of the
+  full RKHS.
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
- `RKHS.kerFun_subRKHS`: the kernel functions of the subRKHS are an orthogonal projection of the
  kernel functions of the full RKHS.
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 2]
```diff
@@ -342,4 +347,30 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
 
-end RKHS.OfKernel
+end OfKernel
+
+section subRKHS
+
+variable (H₀ : Submodule 𝕜 H) [CompleteSpace H₀]
+
+instance instSubRKHS : RKHS 𝕜 H₀ X V where
+  coeCLM := (coeCLM 𝕜 (H:=H)).comp H₀.subtypeL
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  coeCLM := (coeCLM 𝕜).comp H₀.subtypeL
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 3]
```diff
@@ -342,4 +347,30 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  coeCLM_injective := coeCLM_injective.comp H₀.subtype_injective
+
+lemma kerFun_subRKHS (x : X) :
+    kerFun H₀ x = H₀.orthogonalProjectionOnto.comp (kerFun H x) := by
+  ext1
+  refine ext_inner_right 𝕜 fun v ↦ ?_
+  simp [kerFun_inner, comp_apply, -coe_inner, inner_orthogonalProjectionOnto_eq_of_mem_right]
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  simp
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 4]
```diff
@@ -342,4 +347,30 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  rfl
+
+lemma kernel_subRKHS (x y : X) :
+    kernel H₀ x y = (kerFun H x).adjoint ∘L (H₀.starProjection.comp (kerFun H y)) := by
+  rw [kernel_apply]
+  ext v
+  refine ext_inner_right 𝕜 fun v ↦ ?_
+  simp [comp_apply, kerFun_subRKHS, Submodule.adjoint_orthogonalProjectionOnto]
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  ext
  refine ext_inner_right 𝕜 ?_
  simp [kernel_apply, kerFun_subRKHS, Submodule.adjoint_orthogonalProjectionOnto]
```

**Review by Maldooor — CHANGES_REQUESTED** [review]
Thanks!

**Review by Maldooor — APPROVED** [review]
I am happy with this, what do you think? @YaelDillies

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 5]
```diff
@@ -414,4 +419,27 @@ theorem coe_equiv (h : kernel H = kernel H') (f : H) : ⇑(equiv h f) = f := by
 
 end Equiv
 
+section subRKHS
+
+variable (H₀ : Submodule 𝕜 H) [CompleteSpace H₀]
+
+instance instSubRKHS : RKHS 𝕜 H₀ X V where
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
instance instRKHSSubmodule : RKHS 𝕜 H₀ X V where
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 6]
```diff
@@ -414,4 +419,27 @@ theorem coe_equiv (h : kernel H = kernel H') (f : H) : ⇑(equiv h f) = f := by
...
+  coeCLM := (coeCLM 𝕜).comp H₀.subtypeL
+  coeCLM_injective := coeCLM_injective.comp H₀.subtype_injective
+
+lemma kerFun_subRKHS (x : X) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
lemma kerFun_submodule (x : X) :
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 7]
```diff
@@ -414,4 +419,27 @@ theorem coe_equiv (h : kernel H = kernel H') (f : H) : ⇑(equiv h f) = f := by
...
+    kerFun H₀ x = H₀.orthogonalProjectionOnto.comp (kerFun H x) := by
+  ext1
+  refine ext_inner_right 𝕜 fun v ↦ ?_
+  simp
+  rfl
+
+lemma kernel_subRKHS (x y : X) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
lemma kernel_submodule (x y : X) :
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 8]
```diff
@@ -414,4 +419,27 @@ theorem coe_equiv (h : kernel H = kernel H') (f : H) : ⇑(equiv h f) = f := by
...
+instance instSubRKHS : RKHS 𝕜 H₀ X V where
+  coeCLM := (coeCLM 𝕜).comp H₀.subtypeL
+  coeCLM_injective := coeCLM_injective.comp H₀.subtype_injective
+
+lemma kerFun_subRKHS (x : X) :
+    kerFun H₀ x = H₀.orthogonalProjectionOnto.comp (kerFun H x) := by
+  ext1
+  refine ext_inner_right 𝕜 fun v ↦ ?_
+  simp
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Why do you need the `rfl` there? Any way to avoid it without uglifying the proof too much?

**Review by YaelDillies — COMMENTED** [review]
For a second I thought you were defining `structure SubRKHS where ...`! The name should definitely mention `Submodule`

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 8 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Adding the simp lemma `coe_coe` removes the need for the `rfl`.

**Comment by TJHeeringa** [comment]
We should be careful with the naming because of the `toSubmodule` from #38584, but the suggested one seems to be nonconflicting.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
